US09370522B2
The product was obtained via a Suzuki coupling reaction using the method previously shown in Example 20, Step 3, using methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (100 mg, 0.29 mmol, 1.00 equiv) and 4-(hydroxymethyl)phenylboronic acid (66.12 mg, 0.43 mmol, 1.50 equiv) as reactants. Purification via silica gel column (dichloromethane/methanol (10:1)) afforded 80 mg (76%) of 3-(4-(hydroxymethyl)phenyl)-2-phenylquinoxaline-6-carboxylic acid as a light yellow solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.29 mmol, 100 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | 4-(hydroxymethyl)phenylboronic acid | 0.43 mmol, 66.12 mg, 1.50 equiv | OCC1=CC=C(C=C1)B(O)O | C7H9BO3
product | 3-(4-(hydroxymethyl)phenyl)-2-phenylquinoxaline-6-carboxylic acid | 80 mg, 76% | OCC1=CC=C(C=C1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C22H16N2O3
